US08497265B2
To a solution of 2-(azetidin-3-yloxy)-3-chloropyrazine (see PREPARATION P22.1; 0.38 g, 2.047 mmol), 1H-benzo[d]imidazole-2-carboxylic acid (0.37 g, 2.282 mmol), EDCI (0.392 g, 2.047 mmol), butanol (0.121 g, 0.790 mmol) and DCM (25 mL) was added DIPEA (0.62 mL, 3.56 mmol). After 2 hours, the crude reaction was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 0% to 50% EtOAc in hexane, to provide (1H-benzo[d]imidazol-2-yl)(3-(3-chloropyrazin-2-yloxy)azetidin-1-yl)methanone (270 mg, 0.819 mmol, 40.0% yield), as a white solid. MS (ESI) m/z 330.0 (MH+). IC50 (uM) 1.375.

reactant | 2-(azetidin-3-yloxy)-3-chloropyrazine | 2.047 mmol, 0.38 g | N1CC(C1)OC1=NC=CN=C1Cl | C7H8ClN3O
reactant | 1H-benzo[d]imidazole-2-carboxylic acid | 2.282 mmol, 0.37 g | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | EDCI | 2.047 mmol, 0.392 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | butanol | 0.790 mmol, 0.121 g | C(CCC)O | C4H10O
reactant | DIPEA | 3.56 mmol, 0.62 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (1H-benzo[d]imidazol-2-yl)(3-(3-chloropyrazin-2-yloxy)azetidin-1-yl)methanone | 0.819 mmol, 270 mg, 40.0% yield | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)OC2=NC=CN=C2Cl | C15H12ClN5O2
